US07635700B2
To a solution of potassium hydroxide (16.1 g, 286 mmol) in water (500 mL), was added 3-nitrophthalimide (25.0 g, 130 mmol) in portion at 0° C. The suspension was stirred at 0° C. for 3 hours, and then heated to 30° C. for 3 hours. To the solution, was added HCl (100 mL, 6N). The resulting suspension was cooled to 0° C. for 1 hour. The suspension was filtered and washed with cold water (2×10 mL) to give 3-nitro-phthalamic acid as a white solid (24.6 g, 90% yield): 1H NMR (DMSO-d6) δ 7.69 (brs, 1H, NHH), 7.74 (t, J=8 Hz, 1H, Ar), 7.92 (dd, J=1, 8 Hz, 1H, Ar), 8.13 (dd, J=1, 8 Hz, 1H, Ar), 8.15 (brs, 1H, NHH), 13.59 (s, 1H, OH); 13C NMR (DMSO-d6) δ 125.33, 129.15, 130.25, 132.54, 136.72, 147.03, 165.90, 167.31.

reactant | potassium hydroxide | 286 mmol, 16.1 g | [OH-].[K+]
reactant | 3-nitrophthalimide | 130 mmol, 25.0 g | [N+](=O)([O-])C1=C2C(C(=O)NC2=O)=CC=C1 | C8H4N2O4
reactant | HCl | 6N, 100 mL | Cl | ClH
solvent | water | 500 mL | O | H2O
product | 3-nitro-phthalamic acid | 24.6 g, 90% yield | [N+](=O)([O-])C1=C(C(C(=O)O)=CC=C1)C(=O)N | C8H6N2O5
